US06908913B2
4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate (469 mg) was prepared in the same manner as in step a) of Example 1, except that 400 mg of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate and 700 mg of 7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate | 400 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | 7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 700 mg | N1=CC(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-Nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 469 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C27H21N5O7S
